US08440702B2
Methyl 3′-amino-4′-chloro-2-methylbiphenyl-4-carboxylate (946 mg, 3.43 mmol) was dissolved in a mixture of CHBr3 (5 mL) and dichloromethane (5 mL). To the above stirred mixture was added t-butyl nitrite (680 μL, 530.6 mg, 5.145 mmol). The reaction mixture was heated to 80° C. for 30 minutes. Aliquot (LCMS) indicated complete consumption of starting material. Crude mixture was purified by flash chromatography (SiO2, Biotage 40+S cartridge) to afford methyl 3′-bromo-4′-chloro-2-methylbiphenyl-4-carboxylate. LCMS calc.=339.97; found=340.98 (M+1)+.

reactant | Methyl 3′-amino-4′-chloro-2-methylbiphenyl-4-carboxylate | 3.43 mmol, 946 mg | NC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)C(=O)OC)C | C15H14ClNO2
reactant | t-butyl nitrite | 5.145 mmol, 680 μL, 530.6 mg | N(=O)OC(C)(C)C | C4H9NO2
reactant | CHBr3 | 5 mL | C(Br)(Br)Br | CHBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | methyl 3′-bromo-4′-chloro-2-methylbiphenyl-4-carboxylate | BrC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)C(=O)OC)C | C15H12BrClO2
